US05114960
2.4 g (7.5 mmol) of a cis/trans mixture of methyl 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-hydroxy-4H-cyclohept[d]isoxazole-7-carboxylate were stirred in 150 ml of acetone and Jones' reagent was added dropwise until the orange color persisted for 20 minutes. The mixture was filtered and the residue was washed with acetone. The combined filtrate and washings were treated with isopropanol and the mixture was neutralized by stirring with solid sodium bicarbonate. The mixture was filtered. The filtrate was evaporated and the residue was partitioned between dichloromethane and water. The organic phase was dried over magnesium sulfate and evaporated. The residue was treated with hexane and the resulting solid was collected and dried to give 1.85 g of methyl 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-oxo-4H-cyclohept[d]isoxazole-7-carboxylate of melting point 108°-109° C.

reactant | methyl 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-hydroxy-4H-cyclohept[d]isoxazole-7-carboxylate | ClC1=CC=C(C=C1)C1=NOC2=C1C(CCC(C2)C(=O)OC)O | C16H16ClNO4
reactant | Jones' reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | methyl 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-oxo-4H-cyclohept[d]isoxazole-7-carboxylate | 1.85 g | ClC1=CC=C(C=C1)C1=NOC2=C1C(CCC(C2)C(=O)OC)=O | C16H14ClNO4
